US08686147B2
2b) Ethyl 4-(2-phenylethyl)isonipecotate
A mixture of ethyl isonipecotate (64 mmol; 10.0 g), anhydrous potassium carbonate (192 mmol; 26.5 g) and phenylethyl bromide (77 mmol, 14.25 g) in anhydrous N,N-dimethylformamide (100 ml) was stirred at 70° C. for 5 hours 30 minutes. After cooling, the reaction mixture was diluted with water (300 ml) and extracted with ethyl acetate (3×200 ml). The combined organic phases were washed with saturated NaCl solution (3×100 ml), dried over sodium sulfate and evaporated under reduced pressure. A crude product was obtained, which was purified on a column of alumina (eluting with 2/1 n-hexane/ethyl acetate) to give 14.0 g (84%) of pure product as a yellow oil.

reactant | ethyl isonipecotate | 64 mmol, 10.0 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | potassium carbonate | 192 mmol, 26.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenylethyl bromide | 77 mmol, 14.25 g | C1(=CC=CC=C1)CCBr | C8H9Br
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | Ethyl 4-(2-phenylethyl)isonipecotate | 14.0 g, 84% | C1(=CC=CC=C1)CCC1(CCNCC1)C(=O)OCC | C16H23NO2
